US04483863
Preparation of 3-(2,4-dichlorophenyl)-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butyrimidic acid, ethyl ester dihydrochloride
1-Cyano-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol (1 g) was dissolved in dry ethyl alcohol (100 ml) and dry hydrogen chloride gas was bubbled in, at 0° C., for 10 minutes. The reaction mixture was then stirred at room temperature overnight, and then the solvent was decanted from the solid. The solid was then washed with dry ether and dried to yield the title compound, (1.15 g), m.p. 154°-156° C. Found: C,40.6; H,4.4; N,13.6. Calculated for C14H16Cl2N4O2.2HCl: C,40.4; H,4.4; N,13.5%.

reactant | 1-Cyano-2-(2,4-dichlorophenyl)-3-(1H-1,2,4-triazol-1-yl)propan-2-ol | 1 g | C(#N)CC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C12H10Cl2N4O
reactant | ethyl alcohol | 100 ml | C(C)O | C2H6O
product | 3-(2,4-dichlorophenyl)-3-hydroxy-4-(1H-1,2,4-triazol-1-yl)butyrimidic acid, ethyl ester dihydrochloride | 1.15 g | Cl.Cl.ClC1=C(C=CC(=C1)Cl)C(CC(OCC)=N)(CN1N=CN=C1)O | InChI=1S/C14H16Cl2N4O2.2ClH/c1-2-22-13(17)6-14(21,7-20-9-18-8-19-20)11-4-3-10(15)5-12(11)16;;/h3-5,8-9,17,21H,2,6-7H2,1H3;2*1H
